US06960614B2
2-(3-Methyl-but-2-enyloxy)-isoindole-1,3-dione was dissolved in a t-butanol/THF/H2O solution (10 mL/3 mL/1 mL) and charged with N-methylmorpholine N-oxide (0.085 g, 0.73 mmol) and a catalytic amount of potassium osmate dihydrate. After stirring for 17 hours the reaction was diluted with a saturated solution of sodium metabisulfate and partitioned with ethyl acetate. The organic layer was washed twice with saturated solution of sodium metabisulfate, twice with saturated sodium chloride solution, collected and dried over Na2SO4, filtered and concentrated in vacuo affording 2-(2,3-dihydroxy-3-methyl-butoxy)-isoindole-1,3-dione as a clear oil, which was charged with dichloromethane (10 mL), 2,2-dimethoxypropane (0.12 mL, 0.75 mmol) and a catalytic amount of p-toluenesulfonic acid. After stirring for 17 hours, the reaction was concentrated in vacuo, and partitioned between ethyl acetate and water. The organic layer was washed twice with water, once with saturated sodium chloride solution, collected and dried over Na2SO4, filtered and concentrated in vacuo, affording 2-(2,2,5,5-tetramethyl-[1,3]dioxolan-4-ylmethoxy)-isoindole-1,3-dione as a light brown solid (0.158 g, 77.1%): 1H NMR (400 MHz; DMSO-d6) δ 7.82 s, (4H), 4.12-4.26 (m, 2H), 4.04-4.07 (m, 1H), 1.22 (s, 9H) 1.17 (s, 3H), 0.97 s(3H).

reactant | 2-(3-Methyl-but-2-enyloxy)-isoindole-1,3-dione | CC(=CCON1C(C2=CC=CC=C2C1=O)=O)C | C13H13NO3
reactant | N-methylmorpholine N-oxide | 0.73 mmol, 0.085 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | t-butanol THF H2O | 10 mL | C(C)(C)(C)O.C1CCOC1.O
solvent | sodium metabisulfate | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
product | 2-(2,3-dihydroxy-3-methyl-butoxy)-isoindole-1,3-dione | OC(CON1C(C2=CC=CC=C2C1=O)=O)C(C)(C)O | C13H15NO5
